US05081145
1-(4-Chlorobenzyl)-3-methyl-5-methoxy-2-(4'-carboxybutyl)indole
Following the procedure of Example 2, but using 1-[(4-chlorophenyl)methyl]-1-(4-methoxyphenyl)-hydrazine hydrochloride and methyl 6-oxooctanoate as the starting materials and methanol as the solvent, the title compound was prepared.

reactant | 1-[(4-chlorophenyl)methyl]-1-(4-methoxyphenyl)-hydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)CN(N)C1=CC=C(C=C1)OC
reactant | methyl 6-oxooctanoate | O=C(CCCCC(=O)OC)CC | C9H16O3
solvent | methanol | CO | CH4O
product | 1-(4-Chlorobenzyl)-3-methyl-5-methoxy-2-(4'-carboxybutyl)indole | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)C)CCCCC(=O)O)C=C1 | C22H24ClNO3
